US08623870B2
906 mg (4.73 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDCI) are added to a solution of 1.24 g (3.64 mmol) of 3-[3-(3,5-difluorophenyl)-6-oxo-6H-pyridazin-1-ylmethyl]benzoic acid (prepared in accordance with WO 2008/017361), 382 mg (3.64 mmol) of aminoacetaldehyde dimethyl acetal and 557 mg (3.64 mmol) of 1-hydroxybenzotriazole hydrate (HOBt) in 14 ml of DMF, and the mixture is stirred overnight at room temperature. Water is added to the reaction mixture. The precipitate formed is filtered off with suction, washed with water and dried in vacuo, giving 3-[3-(3,5-difluorophenyl)-6-oxo-6H-pyridazin-1-ylmethyl]-N-(2,2-dimethoxyethyl)benzamide as colourless crystals; ESI 430.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.73 mmol, 906 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-[3-(3,5-difluorophenyl)-6-oxo-6H-pyridazin-1-ylmethyl]benzoic acid | 3.64 mmol, 1.24 g | FC=1C=C(C=C(C1)F)C1=NN(C(C=C1)=O)CC=1C=C(C(=O)O)C=CC1 | C18H12F2N2O3
reactant | aminoacetaldehyde dimethyl acetal | 3.64 mmol, 382 mg | COC(CN)OC | C4H11NO2
reactant | 1-hydroxybenzotriazole hydrate | 3.64 mmol, 557 mg | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 3-[3-(3,5-difluorophenyl)-6-oxo-6H-pyridazin-1-ylmethyl]-N-(2,2-dimethoxyethyl)benzamide | FC=1C=C(C=C(C1)F)C1=NN(C(C=C1)=O)CC=1C=C(C(=O)NCC(OC)OC)C=CC1 | C22H21F2N3O4
